US07569578B2
tert-Butyl 3-(1-(4-tert-butylbenzyl)-1H-imidazol-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoate
A mixture of tert-butyl 3-(1H-imidazol-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoate (0.16 mmol), 4-tert-butylbenzyl bromide (1.0 equiv), and potassium carbonate (1.0 equiv) in dimethylformamide (2 mL) was stirred at room temperature overnight. The mixture was diluted with ethyl acetate (20 mL) and washed with water (3×5 mL). The ethyl acetate layer was dried, filtered and concentrated in vacuo. The product was obtained by flash chromatography using 0% to 50% ethyl acetate/hexane (65%). 1H-NMR (400 MHz, CDCl3) δ 7.93 (1H, s), 7.23 (2H, m), 7.03 (2H, m), 6.82 (2H, m), 6.63 (1H, s), 6.49 (1H,s), 5.68 (2H, s), 4.82 (2H, d, J=4.0 Hz), 3.60 (2H, t, 8.0 Hz), 3.41 (1H, m), 2.86 (2H, d, J=8.0 Hz), 2.79 (1H, dd, J1=8.0 Hz, J2=16 Hz), 2.61 (1H, dd, J1=8.0 Hz, J2=16 Hz), 2.49 (3H, s), 1.31 (9H, s), 1.25 (9H, s), 0.91 (2H, t, J=8.0 Hz), −0.06 (9H,s). MS(ESI)[M+H]+=617.

reactant | tert-butyl 3-(1H-imidazol-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoate | 0.16 mmol | N1C(=NC=C1)C(CC(=O)OC(C)(C)C)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C | C25H38N4O3Si
reactant | 4-tert-butylbenzyl bromide | 1.0 equiv | C(C)(C)(C)C1=CC=C(CBr)C=C1 | C11H15Br
reactant | potassium carbonate | 1.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(1-(4-tert-butylbenzyl)-1H-imidazol-2-yl)-4-(7-methyl-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-5-yl)butanoate | C(C)(C)(C)C1=CC=C(CN2C(=NC=C2)C(CC(=O)OC(C)(C)C)CC2=CC3=CN(N=C3C(=C2)C)COCC[Si](C)(C)C)C=C1 | C36H52N4O3Si
